US07465795B2
2-[(2-Bromophenyl)-hydrazono]-N-butyl-2-cyanoacetamide
To a microwave vial charged with [(2-bromophenyl)-hydrazono]-cyanoacetic acid ethyl ester (387 mg, 1.31 mmol) was added methanol (3 mL) and n-butylamine (520 uL, 5.24 mmol). The reaction temperature rose approximately 30° C. and everything went into solution. After 25 minutes, additional n-butylamine (260 uL, mg, 2.6 mmol) and triethyl amine (182 uL, 1.3 mmol) were added. The reaction was stirred at room temperature overnight and then concentrated to afford the title compound which was used without further purification (420 mg, 99%). 1H NMR (300.132 MHz, CDCl3) δ 14.33 (s, 1H), 7.67 (dd, J=8.3, 1.5 Hz, 1H), 7.53 (dd, J=8.1, 1.3 Hz, 1H), 7.34 (td, J=7.8, 1.2 Hz, 1H), 7.01 (dt?ddd, J=6.1 Hz, J=8.0 Hz, J=1.5 Hz, 1H), 6.22 (bs, 1H), 3.40 (dt, J=5.9, 7.2 Hz, 2H), 1.65-1.35 (m, 4H), 0.96 (td, J=7.3, 1.9 Hz, 3H). MS APCI, m/z=323/325 (M+H). HPLC 2.94 min

reactant | [(2-bromophenyl)-hydrazono]-cyanoacetic acid ethyl ester | 1.31 mmol, 387 mg | C(C)OC(C(C#N)=NNC1=C(C=CC=C1)Br)=O | C11H10BrN3O2
reactant | n-butylamine | 5.24 mmol, 520 uL | C(CCC)N | C4H11N
reactant | n-butylamine | 2.6 mmol, 260 uL | C(CCC)N | C4H11N
reactant | triethyl amine | 1.3 mmol, 182 uL | C(C)N(CC)CC | C6H15N
solvent | methanol | 3 mL | CO | CH4O
product | 2-[(2-Bromophenyl)-hydrazono]-N-butyl-2-cyanoacetamide | BrC1=C(C=CC=C1)NN=C(C(=O)NCCCC)C#N | C13H15BrN4O
